US03974200
1-Tetrahydropyranyloxy-4-bromobutane
Methanesulfonyl chloride (20.3 ml.) is added slowly with stirring to a solution of 7-tetrahydropyranyloxyhept-2-yne-1-ol (52.5 g.) in 400 ml. of pyridine at -20° C. The mixture is stirred one hour at -20° C., and then is poured into a stirred mixture of 3-normal hydrochloric acid (1727 ml.) and 2,540 ml. of ice water. This mixture is extracted with diethyl ether. The extract is washed with cold one normal hydrochloric acid and then with saturated aqueous sodium chloride solution, dried, and evaporated at reduced pressure. The residue is dissolved in 500 ml. of dry acetone. Lithium bromide (26 g.) is added to the acetone solution, and the mixture is stirred and heated at reflux 1 hour, and then kept at 25° C. for 15 hours. The acetone is evaporated under reduced pressure, and the residue is extracted with diethyl ether. The diethyl ether extract is washed with water and then 3 times with saturated aqueous sodium chloride solution, dried, and evaporated. The residue is chromatographed on 3.5 kg. of silica gel, eluting with 24 l. of 10% ethyl acetate in Skellysolve B, collecting 1.5 l. fractions. Fractions 5-10 are combined and evaporated to give 25 g. of 1-bromo-7-tetrahydropyranyloxyhept-2-yne.

reactant | Methanesulfonyl chloride | 20.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-tetrahydropyranyloxyhept-2-yne-1-ol | 52.5 g | O1C(CCCC1)OCCCCC#CCO | C12H20O3
reactant | hydrochloric acid | 1727 ml | Cl | ClH
reactant | 1-bromo-7-tetrahydropyranyloxyhept-2-yne | BrCC#CCCCCOC1OCCCC1 | C12H19BrO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Tetrahydropyranyloxy-4-bromobutane | O1C(CCCC1)OCCCCBr | C9H17BrO2
